US08541421B2
Dimethylmalonate (2.2 mL, 19.2 mmol) was added slowly to a suspension of 60% sodium hydride in mineral oil (0.81 g, 20.3 mmol) in anhydrous DMF (50 mL) at −10° C. under nitrogen. After stirring at room temperature for 30 minutes, isatoic anhydride (3.0 g, 18.4 mmol) was added, and the reaction was heated at 115° C. for 2.5 hours. The reaction was cooled to room temperature, then poured into ice water (500 mL) and acidified to pH 2 with 2M HCl. The resultant precipitate was collected by filtration to give crude methyl 4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxylate (2.89 g, 72%), which was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ3.86 (s, 3H), 7.23 (m, 2H), 7.63 (m, 1H), 7.94 (dd, J=0.8, 8.0 Hz, 1H), 11.55 (s, 1H), 13.33 (s, 1H). MS 220 (MH+).

reactant | Dimethylmalonate | 19.2 mmol, 2.2 mL | CC(C(=O)[O-])(C(=O)[O-])C
reactant | sodium hydride | [H-].[Na+]
reactant | isatoic anhydride | 18.4 mmol, 3.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | HCl | 2M | Cl | ClH
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxylate | 2.89 g, 72% | OC1=C(C(NC2=CC=CC=C12)=O)C(=O)OC | C11H9NO4
